US06881844B2
A solution of 6-methoxy-1H-indole (927 mg, 6.30 mmol) in tetrahydrofuran (5 mL) cooled to 0° C. was treated with trifluoroacetic anhydride (1.33 mL, 9.45 mmol) followed by additional tetrahydrofuran (3 mL). The reaction was stirred at 0° C. for 30 min. At this time, the reaction was poured into water (75 mL). The resulting precipitate was collected by filtration, washed with water, and dried in vacuo to afford 2,2,2-trifluoro-1-(6-methoxy-1H-indol-3-yl)-ethanone (1.56 g, 94.5%) as a yellow solid: mp 206-208° C.; EI-HRMS m/e calcd for C11H8F3NO2 (M+) 243.0507, found 243.0515.

reactant | 6-methoxy-1H-indole | 6.30 mmol, 927 mg | COC1=CC=C2C=CNC2=C1 | C9H9NO
reactant | trifluoroacetic anhydride | 9.45 mmol, 1.33 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 75 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 2,2,2-trifluoro-1-(6-methoxy-1H-indol-3-yl)-ethanone | 1.56 g, 94.5% | FC(C(=O)C1=CNC2=CC(=CC=C12)OC)(F)F | C11H8F3NO2
